US06350759B1
2,6-Diisopropyl-4-nitrophenol
78.3 mmol (4.93 g) of fuming nitric acid are added dropwise to a solution, cooled to 0° C., of 53.9 mmol (9.62 g) of 2,6-diisopropylphenol in 350 ml of acetic acid. The reaction mixture is stirred at 0° C. for 1 hour 30 minutes and is then poured into a mixture of ethyl acetate and ice. The organic phase is isolated and then washed with water. After drying and evaporating off the solvent, an oily residue is recovered which is purified by chromatography on silica gel using a petroleum ether: ethyl acetate mixture 9:1 as eluant.

reactant | nitric acid | 78.3 mmol, 4.93 g | [N+](=O)(O)[O-] | HNO3
reactant | 2,6-diisopropylphenol | 53.9 mmol, 9.62 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)O | C12H18O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 350 ml | C(C)(=O)O | C2H4O2
product | 2,6-Diisopropyl-4-nitrophenol | C(C)(C)C1=C(C(=CC(=C1)[N+](=O)[O-])C(C)C)O | C12H17NO3
